US04244957
Preparation of 5-[{[2-[(2,6 -dichlorophenyl)imino]-1-imidazolidinyl]oxy}methyl]-3-hydroxy-2-methyl-4-pyridinemethanol dihydrochloride
3.7 g. of 5-[{[2-[(2,6-dichlorphenyl)imino]-1-imidazolidinyl]oxy}methyl]-2,2,8-trimethyl-4H-m-dioxino[4,5-c]pyridine are dissolved in 50 ml. of ethanol, 50 ml. of 3N hydrochloric acid are added at room temperature and the mixture is left to stand for two days. The solution is evaporated and the residue is recrystallized from methanol/acetronitrile, whereupon 5-[{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}methyl]-3-hydroxy-2-methyl-4-pyridinemethanol dihydrochloride, m.p. 216°-218°, is obtained.

reactant | 5-[{[2-[(2,6-dichlorphenyl)imino]-1-imidazolidinyl]oxy}methyl]-2,2,8-trimethyl-4H-m-dioxino[4,5-c]pyridine | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCC1=C2C(=C(N=C1)C)OC(OC2)(C)C | C20H22Cl2N4O3
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-[{[2-[(2,6 -dichlorophenyl)imino]-1-imidazolidinyl]oxy}methyl]-3-hydroxy-2-methyl-4-pyridinemethanol dihydrochloride | Cl.Cl.ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCC=1C(=C(C(=NC1)C)O)CO | InChI=1S/C17H18Cl2N4O3.2ClH/c1-10-16(25)12(8-24)11(7-21-10)9-26-23-6-5-20-17(23)22-15-13(18)3-2-4-14(15)19;;/h2-4,7,24-25H,5-6,8-9H2,1H3,(H,20,22);2*1H
